US07005432B2
5-Benzo[b]thiophen-2-yl-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=307.3 (M+H+), was prepared from benzo[B]thiophene-2-boronic acid and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | benzo[B]thiophene-2-boronic acid | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-Benzo[b]thiophen-2-yl-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.S1C2=C(C=C1C=1C=C(N=NC1)CN1C(=NC=C1)C)C=CC=C2 | InChI=1S/C17H14N4S.ClH/c1-12-18-6-7-21(12)11-15-8-14(10-19-20-15)17-9-13-4-2-3-5-16(13)22-17;/h2-10H,11H2,1H3;1H
